US05210290
2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]benzoic Acid Methyl Ester
250 ml of dichloromethane is combined with 9.38 g (52.37 mmol) of 4-fluoro-2-trifluoromethylaniline and 6 ml (14.3 mmol) of pyridine. The mixture is cooled with ice water and under agitation and exclusion of moisture, 13.52 g (57.62 mmol) of 2-chlorosulfonylbenzoic acid methyl ester is added in small increments. The mixture is agitated overnight, washed with 2N hydrochloric acid and water, the dichloromethane solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is crystallized from ethyl acetate/hexane. The title compound melts at 143°-145° C.

reactant | 4-fluoro-2-trifluoromethylaniline | 52.37 mmol, 9.38 g | FC1=CC(=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | pyridine | 14.3 mmol, 6 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-chlorosulfonylbenzoic acid methyl ester | 57.62 mmol, 13.52 g | COC(C1=C(C=CC=C1)S(=O)(=O)Cl)=O | C8H7ClO4S
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]benzoic Acid Methyl Ester | COC(C1=C(C=CC=C1)S(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O | C15H11F4NO4S
